US07452892B2
D. Preparation of 7,8-bis(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one
To a solution of 8-bromo-7-chloro-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one (81.3 mg, 0.20 mmol) in toluene (3 mL) at room temperature under argon was added 4-chlorophenylboronic acid (46.8 mg, 0.30 mmol), tetrakis(triphenylphosphine)palladium (46 mg, 0.040 mmol), and aqueous Na2CO3 solution (2.0 M, 0.20 mL, 0.40 mmol). The resulting suspension was stirred and heated at 100° C. under argon for 22 h. Analysis by HPLC/MS indicated that starting material had been consumed. After the reaction mixture was cooled to room temperature, water (10 mL) and EtOAc (15 mL) were added. The layers were separated. The organic layer was dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude product was purified by silica gel column chromatography eluted with ethyl acetate-hexanes to obtain the title compound (7.6 mg) as an off-white solid. HPLC/MS: retention time=4.10 min, [M+H]30 =516.

reactant | 8-bromo-7-chloro-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 0.20 mmol, 81.3 mg | BrC=1C=2N(C=NC1Cl)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C12H6BrClF3N5O
reactant | 4-chlorophenylboronic acid | 0.30 mmol, 46.8 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 0.40 mmol, 2.0 M, 0.20 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.040 mmol, 46 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7,8-bis(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 7.6 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=N1)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O)C2=CC=C(C=C2)Cl | C24H14Cl2F3N5O
